US05241027
2-Methylbenzoselenazole (10.1 g ) was dissolved in 100 ml of chloroform, then 10.0 g of methyl iodide was added to the solution, and the mixture was heated in an autoclave at 80° C. for 5 days. The crystals resulting from the reaction were taken out by filtration, washed with ether and dried to give 16.4 g of 2,3-dimethyl-benzoselenazolium iodide (yield 94%).

reactant | 2-Methylbenzoselenazole | 10.1 g | CC=1[Se]C2=C(N1)C=CC=C2 | C8H7NSe
reactant | methyl iodide | 10.0 g | CI | CH3I
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 2,3-dimethyl-benzoselenazolium iodide | 16.4 g, yield 94% | [I-].CC=1[Se]C2=C([N+]1C)C=CC=C2 | InChI=1S/C9H10NSe.HI/c1-7-10(2)8-5-3-4-6-9(8)11-7;/h3-6H,1-2H3;1H/q+1;/p-1
